US06140100
According to example 54, 0.60 g of 3-(3-pentyl)-L-phenylalanine.HCl was treated with 30 mL of isobutylene in 35 mL of 1,4-dioxane in the presence of 0.5 mL of conc. H2SO4. Work-up in the usual manner followed by acidification with 2 mL of 1N ethereal HCl afforded 0.53 g (74%) of tert-butyl 3-(3-pentyl)-L-phenylalaninate.HCl as a light yellow glass.

reactant | 3-(3-pentyl)-L-phenylalanine | 0.60 g | CCC(CC)C=1C=C(C[C@H](N)C(=O)O)C=CC1 | C14H21NO2
reactant | HCl | Cl | ClH
reactant | isobutylene | 30 mL | CC(C)=C | C4H8
reactant | H2SO4 | 0.5 mL | OS(=O)(=O)O | H2O4S
reactant | HCl | 1N, 2 mL | Cl | ClH
solvent | 1,4-dioxane | 35 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 3-(3-pentyl)-L-phenylalaninate | 0.53 g, 74% | CCC(CC)C=1C=C(C[C@H](N)C(=O)OC(C)(C)C)C=CC1 | C18H29NO2
